US07517910B2
3-[4-([4-[(3-methyl-5-phenyl-1H-pyrazol-1-yl)methyl]benzyl}oxy)phenyl]propanoic acid
To a mixture of {4-[(3-methyl-5-phenyl-1H-pyrazol-1-yl)methyl]phenyl}methanol (139 mg, 0.5 mmol), methyl 3-(4-hydroxyphenyl)propanoate (90 mg, 0.5 mmol), triphenylphosphine (262 mg, 1.0 mmol) and dichloromethane (3 mL) was added dropwise diethyl azodicarboxylate (40% toluene solution, 435 mg, 1.0 mmol) with stirring at room temperature, and the mixture was stirred at room temperature for 1 hr. After completion of the reaction, the reaction mixture was purified by silica gel column chromatography (hexane:ethyl acetate=19:1-1:2) to give a yellow oil. The yellow oil was dissolved in methanol (3 mL) and tetrahydrofuran (3 mL), and 1 N aqueous sodium hydroxide solution (2 mL) was added. The mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with water, and neutralized with 1 N hydrochloric acid. The mixture was extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (Manufactured by Wako. Pure Chemical Industries, Ltd.), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1-1:4) to give the title compound (90 mg, yield 42%, 2 steps) as colorless crystals.

reactant | {4-[(3-methyl-5-phenyl-1H-pyrazol-1-yl)methyl]phenyl}methanol | 0.5 mmol, 139 mg | CC1=NN(C(=C1)C1=CC=CC=C1)CC1=CC=C(C=C1)CO | C18H18N2O
reactant | methyl 3-(4-hydroxyphenyl)propanoate | 0.5 mmol, 90 mg | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | triphenylphosphine | 1.0 mmol, 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.0 mmol, 435 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | sodium hydroxide | 1 N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-[4-([4-[(3-methyl-5-phenyl-1H-pyrazol-1-yl)methyl]benzyl}oxy)phenyl]propanoic acid | 90 mg, yield 42% | CC1=NN(C(=C1)C1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1 | C27H26N2O3
